US04492692
Reaction of 2-fluoro-1-triphenylmethylimidazole with n-butyl lithium at -75° followed by treatment with phenylisocyanate gave 2-fluoro-4-phenylcarbamoyl-1-triphenylmethylimidazole, n.m.r. in CDCl3 : 7.0-7.5 (m, 19H); 7.6 (d, 2H); 8.6 (s, 1H). Reaction of this product with toluene-p-sulphonic acid in DMF at 85° for 15 minutes gave 2-fluoro-4-phenylcarbamoylimidazole, n.m.r. in CDCl3 : 6.9-8.0 (m, 6H); 9.6 (s, 1H).

reactant | 2-fluoro-1-triphenylmethylimidazole | FC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17FN2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 2-fluoro-4-phenylcarbamoyl-1-triphenylmethylimidazole | FC=1N(C=C(N1)C(NC1=CC=CC=C1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H22FN3O
